US06525042B1
4-(2-Aminothiazol-4-yl)benzoic acid
At room temperature, methyl 4-(2-aminothiazol-4-yl)benzoate (300 mg) was suspended in a mixed solvent of tetrahydrofuran (5 ml) and methanol (5 ml), followed by the addition of a 1N aqueous sodium hydroxide solution (10 ml). The resulting mixture was stirred for one hour. To the reaction mixture, N,N-dimethylformamide (5 ml) was added, followed by heating under reflux for 6 hours. After completion of the reaction, the solvent was distilled off. To the residue, water and 1N hydrochloric acid were added successively and the pale yellow solid so precipitated was collected by filtration, whereby the title compound (229 mg, 69%) was obtained as a pale yellow solid.

reactant | methyl 4-(2-aminothiazol-4-yl)benzoate | 300 mg | NC=1SC=C(N1)C1=CC=C(C(=O)OC)C=C1 | C11H10N2O2S
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(2-Aminothiazol-4-yl)benzoic acid | NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2S
